US04238486
Step B: 1-Acetyl-4-bromo-8-chloro-3,4-dihydrobenz[cd]-indol-5(1H)-one
To a stirred mixture of 1-acetyl-8-chloro-3,4-dihydrobenz[cd]-indol-5(1H)-one (9.7 g, 0.04 mole) in acetic acid (80 ml.) is added in one portion pyridinium bromide perbromide (13.8 g., 0.042 mole). The stirring is continued for 3.5 hours and then water (150 ml.) is added to the reaction mixture. The dark solid that separates is recovered by filtration and dried. The crude yield is 10 g. (89%) of material that is used in the next step without further purification.

reactant | 1-acetyl-8-chloro-3,4-dihydrobenz[cd]-indol-5(1H)-one | 0.04 mole, 9.7 g | C(C)(=O)N1C=C2C=3C(=CC=C(C13)Cl)C(CC2)=O | C13H10ClNO2
reactant | pyridinium bromide perbromide | 0.042 mole, 13.8 g | C1=CC=[NH+]C=C1.Br[Br-]Br
reactant | water | 150 ml | O | H2O
solvent | acetic acid | 80 ml | C(C)(=O)O | C2H4O2
product | 1-Acetyl-4-bromo-8-chloro-3,4-dihydrobenz[cd]-indol-5(1H)-one | C(C)(=O)N1C=C2C=3C(=CC=C(C13)Cl)C(C(C2)Br)=O | C13H9BrClNO2
